US07521461B2
a) N-Benzyl-2-(3-fluoro-4-hydroxyphenyl)-N-hexylacetamide
3-Fluoro-4-hydroxyphenylacetic acid (170 mg, 0.999 mmol) dissolved in DMF (3 ml) was cooled in an ice-bath N-Hexylbenzylamine (201 mg, 1.049 mmol) was added and then TBTU (337 mg, 1.049 mmol) followed by DIPEA (407 mg, 3.147 mmol). The mixture was stirred at room temperature overnight and evaporated. Sodium hydrogencarbonate aqueous solution (sat.) was added into the residue. The mixture was then extracted with ethyl acetate (×2). The extracts were combined and washed with water and brine and dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 5 g/15 ml) using DCM and then MeOH/DCM (1:99) as eluant gave 265 mg the desired product, yield 77%.

reactant | 3-Fluoro-4-hydroxyphenylacetic acid | 0.999 mmol, 170 mg | FC=1C=C(C=CC1O)CC(=O)O | C8H7FO3
reactant | N-Hexylbenzylamine | 1.049 mmol, 201 mg | C(CCCCC)NCC1=CC=CC=C1 | C13H21N
reactant | TBTU | 1.049 mmol, 337 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 3.147 mmol, 407 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-Benzyl-2-(3-fluoro-4-hydroxyphenyl)-N-hexylacetamide | 265 mg, yield 77% | C(C1=CC=CC=C1)N(C(CC1=CC(=C(C=C1)O)F)=O)CCCCCC | C21H26FNO2
